US09085517B2
5-chloro-4-{[(5-chloro-6-cyclopropylpyridin-3-yl)oxy]methyl}-N-[(3,3-difluoroazetidin-1-yl)sulfonyl]-2-fluorobenzamide
To a solution of 5-chloro-4-(((5-chloro-6-cyclopropylpyridin-3-yl)oxy)methyl)-2-fluorobenzoic acid (Preparation 27, 100 mg, 0.28 mmol) and 3,3-difluoroazetidine-1-sulfonamide (Preparation 23, 75 mg, 0.42 mmol) in DCM (10 mL) was added diisopropylethylamine (73 mg, 0.56 mmol) followed by 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxid hexafluorophosphate (160 mg, 0.42 mmol). The mixture was stirred at room temperature for 2 hours and concentrated under reduced pressure. The residue was dissolved in DMSO (2 mL) and purified by reverse phase chromatography (0-90% acetonitrile/water containing 0.1% formic acid) to give the title compound as colourless solid (51 mg, 36%).

reactant | 5-chloro-4-(((5-chloro-6-cyclopropylpyridin-3-yl)oxy)methyl)-2-fluorobenzoic acid | 0.28 mmol, 100 mg | ClC=1C(=CC(=C(C(=O)O)C1)F)COC=1C=NC(=C(C1)Cl)C1CC1 | C16H12Cl2FNO3
reactant | 3,3-difluoroazetidine-1-sulfonamide | 0.42 mmol, 75 mg | FC1(CN(C1)S(=O)(=O)N)F | C3H6F2N2O2S
reactant | diisopropylethylamine | 0.56 mmol, 73 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxid hexafluorophosphate | 0.42 mmol, 160 mg | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-4-{[(5-chloro-6-cyclopropylpyridin-3-yl)oxy]methyl}-N-[(3,3-difluoroazetidin-1-yl)sulfonyl]-2-fluorobenzamide | 51 mg, 36% | ClC=1C(=CC(=C(C(=O)NS(=O)(=O)N2CC(C2)(F)F)C1)F)COC=1C=NC(=C(C1)Cl)C1CC1 | C19H16Cl2F3N3O4S
